US06231833B1
(7R,9aS)-7-(4-Fluorophenoxy)methyl-2-(pyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
The title compound was synthesized according to Preparation 11 using 2-bromopyridine and (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H -pyrido[1,2-a]pyrazine (Preparation 8). mp (—HCl) 261-263° C. HRMS calcd for C20H24FN3O: 341.1903; found, 341.1928.

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H -pyrido[1,2-a]pyrazine | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCNC3)C2)C=C1 | C15H21FN2O
reactant | HCl | Cl | ClH
product | (7R,9aS)-7-(4-Fluorophenoxy)methyl-2-(pyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCN(C3)C3=NC=CC=C3)C2)C=C1 | C20H24FN3O
